US06982348B2
N-((1RS,2SR)-2-(3-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxamide
To a solution of (1RS,2SR)-2-amino-1-(3-fluorophenyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol (167 mg, 0.53 mmol) in acetonitrile (20 ml) were added 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid (100 mg, 0.53 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (153 mg, 0.80 mmol) and 1-hydroxy-1H-benzotriazole (81 mg, 0.53 mmol) and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed successively with 1N hydrochloric acid, 1N aqueous sodium hydroxide solution and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give the title compound (209 mg, 81%).

reactant | (1RS,2SR)-2-amino-1-(3-fluorophenyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol | 0.53 mmol, 167 mg | NC(C(O)C1=CC(=CC=C1)F)CC1=CC=C(C=C1)C(F)(F)F | C16H15F4NO
reactant | 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid | 0.53 mmol, 100 mg | C=1(C=CC=C2C1C=CCCC2)C(=O)O | C12H12O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.80 mmol, 153 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole | 0.53 mmol, 81 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | N-((1RS,2SR)-2-(3-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxamide | 209 mg, 81% | FC=1C=C(C=CC1)C(C(CC1=CC=C(C=C1)C(F)(F)F)NC(=O)C=1C=CC=C2C1C=CCCC2)O | C28H25F4NO2
